US04705786
A mixture of 250 mg of methyl 2-(3-nitrobenzylidene)acetoacetate, 260 mg of 5-acetonyl-3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazole, 3 ml of isopropyl alcohol and 40 mg of 29% ammonia water was reacted and worked up as described in Example 104 to give methyl 1,4-dihydro-2,6-dimetyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine-5-carboxylate, m.p. 126°-127° C.

reactant | methyl 2-(3-nitrobenzylidene)acetoacetate | 250 mg | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C(=O)C)C=CC1 | C12H11NO5
reactant | 5-acetonyl-3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazole | 260 mg | C(C(=O)C)C1=NC(=NO1)CN(C)CC1=CC=CC=C1 | C14H17N3O2
reactant | ammonia water | 40 mg | O.N
solvent | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
product | methyl 1,4-dihydro-2,6-dimetyl-3-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine-5-carboxylate | CC=1NC(=C(C(C1C1=NC(=NO1)CN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C26H27N5O5
